US04141901
A suspension of 5-chloro-2-[3-(2-chloroacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone (1.35 g) and potassium phthalimide (0.7 g) in dimethylformamide (10 ml) is warmed at 50° to 60° C. for 3 hours. The reaction mixture is shaken with methylene chloride. The methylene chloride layer is washed with water and saturated aqueous saline solution in order, dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The residue is crystallized from ethyl acetate/ether to give 5-chloro-2-[3-(2-phthalimido-acetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone as crystals melting at 251° to 253° C.

reactant | 5-chloro-2-[3-(2-chloroacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | 1.35 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CCl)=O | C19H16Cl2N4O2
reactant | potassium phthalimide | 0.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-[3-(2-phthalimido-acetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C27H20ClN5O4
